* D:\Sem4\EW1\EW2_Project_1\LTSPICE\Full_Circuit\Full_Circuit.asc
* Generated by LTspice 26.0.1 for Windows.
Q1 N020 N023 N028 0 BC547B
R1 N028 N031 100
R2 N023 N031 15k
C1 N023 N005 1µ
R3 N002 N023 100k
D1 N008 N020 1N4148
D2 N003 N008 1N4148
R4 N002 N003 1k
Q2 N002 N003 N009 0 TIP31
Q3 N031 N020 N009 0 TIP32
R5 0 Vout 10
C2 Vout N009 1000µ
V1 N031 0 -5
V2 N002 0 5
Q4 N012 N021 N025 0 2N2222
Q5 N013 N022 N025 0 2N2222
R6 N004 N012 360
R7 N004 N013 360
R8 N025 N030 1k
V3 N030 0 -5
Q6 N006 N014 N024 0 2N2222
R9 N014 N032 2.2k
R10 N001 N014 21k
R11 N001 N006 24.7k
V4 N001 0 5
V5 N032 0 -5
V6 N021 0 SINE(0 10m 2k)
V7 N022 0 SINE(0 10m 2k 0 0 180)
V8 N004 0 5
C3 N014 N013 220µ
R12 N024 N029 1k
R13 N029 N032 1k
C4 N029 N032 220µ
X§U1 N019 N007 N011 N027 N007 UA741 ;§pnba In+)In-)V+)V-)OUT
V9 N011 0 12
V11 N027 0 -12
R14 N007 N018 11k
R15 0 N019 22k
C5 N019 N018 1µ
C6 N018 N017 1µ
X§U2 N016 N005 N010 N026 N005 UA741 ;§pnba In+)In-)V+)V-)OUT
V12 N010 0 12
V13 N026 0 -12
C7 N005 N015 2.2n
C8 0 N016 1n
R16 N016 N015 3.3k
R17 N015 N007 3.3k
R18 N017 N006 500k
.model D D
.lib C:\Users\Ravi\AppData\Local\LTspice\lib\cmp\standard.dio
.model NPN NPN
.model PNP PNP
.lib C:\Users\Ravi\AppData\Local\LTspice\lib\cmp\standard.bjt
.MODEL TIP31	   NPN(Is=2.447p Xti=3 Eg=1.11 Vaf=100 Bf=208.2 Ise=70.69p
+   Ne=1.565 Ikf=.9743 Nk=.6134 Xtb=1.5 Br=12.59 Isc=11.68n
+   Nc=1.835 Ikr=3.86 Rc=.4685 Cjc=142p Mjc=.4353 Vjc=.75 Fc=.5
+   Cje=188.5p Mje=.4878 Vje=.75 Tr=194.2n Tf=19.85n Itf=164.1
+   Xtf=5.945 Vtf=10 Rb=.1)
.MODEL TIP32	    PNP(Is=51.23f Xti=3 Eg=1.11 Vaf=100 Bf=434.1 Ise=51.23f Ne=1.22
+   Ikf=.3883 Nk=.5544 Xtb=2.2 Br=55.47 Isc=51.23f Nc=1.205
+   Ikr=10.87 Rc=.3443 Cjc=136.9p Mjc=.3155 Vjc=.75 Fc=.5
+   Cje=179.9p Mje=.4294 Vje=.75 Tr=20.25n Tf=13.05n Itf=6.85
+   Xtf=1.573 Vtf=10 Rb=.1)
.tran 5m
.inc UA741.301
.backanno
.end
